US07384934B2
(S)-8-Fluoro-5-[3-(2-methoxy-ethyl)-piperazin-1-yl]-11H-12-thia-6,11-diaza-dibenzo[a,f]azulene
Following the method of Example 380 using 8-fluoro-11H-12-thia-6,11-diaza-dibenzo[a,f]azulen-5-ylamine hydrochloride (0.40 g, 1.3 mmol) and (S)-2-(2-methoxy-ethyl)-piperazine (0.36 g, 2.5 mmol), stirring at 115° C. for 24 hours, wash the separated organic layer with 0.1 N NaOH (2×), and extract the combined aqueous layers with ethyl acetate. Combine the organics and wash with a saturated solution of sodium chloride (3×), and then dry (sodium sulfate), filter, and concentrate under reduced pressure to a residue. Purify the residue by flash chromatography, eluting with a gradient of a solution of 5% 2M ammonia in methanol, in dichloromethane (in dichloromethane) to give the title compound (0.096 g). Mass spectrum (APCI+, m/e): 411 (M+1).

reactant | 8-fluoro-11H-12-thia-6,11-diaza-dibenzo[a,f]azulen-5-ylamine hydrochloride | 1.3 mmol, 0.40 g | Cl.FC1=CC2=C(NC=3SC4=C(C3C(=N2)N)C=CC=C4)C=C1
reactant | (S)-2-(2-methoxy-ethyl)-piperazine | 2.5 mmol, 0.36 g | COCC[C@@H]1NCCNC1 | C7H16N2O
product | (S)-8-Fluoro-5-[3-(2-methoxy-ethyl)-piperazin-1-yl]-11H-12-thia-6,11-diaza-dibenzo[a,f]azulene | 0.096 g | FC1=CC2=C(NC=3SC4=C(C3C(=N2)N2C[C@@H](NCC2)CCOC)C=CC=C4)C=C1 | C22H23FN4OS
